US07662442B2
(1-1) Synthesis of ethyl trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexanecarboxylate
Concentrated sulfuric acid (5.0 mL) was added to an ethanol suspension (150 mL) of trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexanecarboxylic acid (50.0 g), and the resultant was thereafter heated and refluxed for six hours. It was cooled to room temperature to halt the reaction by the addition of water. An organic layer was extracted by using ethyl acetate. The thus collected organic layer was washed by using a saturated sodium bicarbonate aqueous solution and brine in that order, and dried with anhydrous sodium sulphate. Solvents were removed by distillation to obtain a slightly yellow solid of 55.1 g.

reactant | sulfuric acid | 5.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 mL | C(C)O | C2H6O
reactant | trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexanecarboxylic acid | 50.0 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C(=O)O | C18H32O2
solvent | water | O | H2O
product | ethyl trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexanecarboxylate | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C(=O)OCC | C20H36O2
